US07238716B2
To a mixture of (5-methyl-2-phenyl-4-oxazolyl)methanol (8.51 g) and tetrahydrofuran (100 mL) was added sodium hydride (60%, oil, 1.80 g) at room temperature and the reaction mixture was stirred at room temperature until generation of hydrogen ended. The mixture was added to a solution of methyl 6-chloropyridine-2-carboxylate (7.72 g) in tetrahydrofuran (75 ml) at room temperature and the obtained mixture was further stirred at 40° C. for 5 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals of methyl 6-(5-methyl-2-phenyl-4-oxazolyl)methoxy-2-pyridinecarboxylate from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave pale-yellow plate crystals (7.41 g, 51%). melting point: 97-98° C.

reactant | (5-methyl-2-phenyl-4-oxazolyl)methanol | 8.51 g | CC1=C(N=C(O1)C1=CC=CC=C1)CO | C11H11NO2
reactant | sodium hydride | 1.80 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl 6-chloropyridine-2-carboxylate | 7.72 g | ClC1=CC=CC(=N1)C(=O)OC | C7H6ClNO2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | methyl 6-(5-methyl-2-phenyl-4-oxazolyl)methoxy-2-pyridinecarboxylate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=CC(=N1)C(=O)OC | C18H16N2O4
